US04006145
322.5 g of methyl 3-methyl-6-(phenylthio)-benzoate in 3 litres of absolute tetrahydrofuran are treated dropwise over a period of 30 minutes under argon and under reflux with 420 ml of a 70% sodium-dihydro-bis(2-methoxyethoxy)-aluminate solution in benzene and the mixture is boiled for a further 3 hours under reflux. Then the mixture is cooled to ca 4° C, diluted with 1 litre of benzene, hydrolysed with 700 ml of 2-N hydrochloric acid, then poured on to ice-water and treated with a further 400 ml of concentrated hydrochloric acid in order to obtain a clear solution. The organic phase is washed with water, dried over sodium sulphate, filtered and evaporated. There is obtained 3-methyl-6-(phenylthio)-benzyl alcohol as a red-brown oil.

reactant | methyl 3-methyl-6-(phenylthio)-benzoate | 322.5 g | CC=1C=C(C(=O)OC)C(=CC1)SC1=CC=CC=C1 | C15H14O2S
solvent | tetrahydrofuran | 3 litres | O1CCCC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | benzene | 1 litre | C1=CC=CC=C1 | C6H6
solvent | hydrochloric acid | Cl | ClH
solvent | hydrochloric acid | 400 ml | Cl | ClH
product | 3-methyl-6-(phenylthio)-benzyl alcohol | CC=1C=C(CO)C(=CC1)SC1=CC=CC=C1 | C14H14OS
